US05183925
Under the conditions of example 2D, 696 mg of 5-(2-iodophenoxy)-valeric acid ethyl ester and 3.2 g of (E)-1,2-bis-(tri-n-butylstannyl)-ethylene (50%) are reacted in the presence of 47 mg of tetrakis-(triphenylphosphine)palladium, treated with 1.02 g of iodine, worked up and chromatographed on silica gel with n-hexane/ethyl acetate-95/5. 430 mg of 5-[2-[(E)-2-iodovinyl]-phenoxy]-valeric acid ethyl ester is obtained as an oily crude product, which is used without further purification in the next stage.

reactant | 5-(2-iodophenoxy)-valeric acid ethyl ester | 696 mg | C(C)OC(CCCCOC1=C(C=CC=C1)I)=O | C13H17IO3
reactant | (E)-1,2-bis-(tri-n-butylstannyl)-ethylene | 3.2 g | C(CCC)[Sn](\C=C\[Sn](CCCC)(CCCC)CCCC)(CCCC)CCCC
reactant | iodine | 1.02 g | II | I2
product | 5-[2-[(E)-2-iodovinyl]-phenoxy]-valeric acid ethyl ester | 430 mg | C(C)OC(CCCCOC1=C(C=CC=C1)\C=C\I)=O | C15H19IO3
